US05864039
4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (1.5 g) as starting compound and 1-methyl-1 H-indol-3-carboxaldehyde (0.81 g) were reacted and treated in the same manner as in Example 121 to give 1.0 g of 4-amino-5-chloro-N-((1-(5-((1-methyl-1 H-indol-3-ylmethyl)amino)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-N-(1-(5-aminopentyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 1.5 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN)C=C1Cl)OC | C19H31ClN4O2
reactant | 1-methyl-1 H-indol-3-carboxaldehyde | 0.81 g | CN1C=C(C2=CC=CC=C12)C=O | C10H9NO
product | 4-amino-5-chloro-N-((1-(5-((1-methyl-1 H-indol-3-ylmethyl)amino)pentyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 1.0 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2=CN(C3=CC=CC=C23)C)C=C1Cl)OC | C29H40ClN5O2
